US05409943
N-(3-(2,6-Difluorobenzyloxy)pyrid-2-yl-N'-(prop-2-yl)-N-"-(4-chlorophenyl)guanidine
A mixture of N-[3-(2,6-difluorobenzyloxy)pyrid-2-yl]-N'-(4-chlorophenyl)thiourea (1.0 g, 0.0025 mol), yellow mercuric oxide (0.64 g, 0.003 mol) and isopropylamine (0.43 g, 0.0074 mol) in methanol (20 ml) was stirred at room temperature for 96 hours, and then heated at 50 ° C. for 8 hours. After cooling, the solvent was removed in vacuo and the black residue was boiled with chloroform and filtered hot. Evaporation of the solvent and recrystallisation from acetonitrile gave the desired product. Yield 0.24 g (23%), m.p. 112°-113 ° C.

reactant | N-[3-(2,6-difluorobenzyloxy)pyrid-2-yl]-N'-(4-chlorophenyl)thiourea | 0.0025 mol, 1.0 g | FC1=C(COC=2C(=NC=CC2)NC(=S)NC2=CC=C(C=C2)Cl)C(=CC=C1)F | C19H14ClF2N3OS
reactant | isopropylamine | 0.0074 mol, 0.43 g | C(C)(C)N | C3H9N
solvent | methanol | 20 ml | CO | CH4O
product | 3-(2,6-Difluorobenzyloxy)pyrid-2-yl-N'-(prop-2-yl)-N-"-(4-chlorophenyl)guanidine | FC1=C(COC=2C(=NC=CC2)NC(=NC2=CC=C(C=C2)Cl)NC(C)C)C(=CC=C1)F | C22H21ClF2N4O
